US04513002
1.0 g of 10,11-dihydro-5H-dibenzo[a,d]cycloheptene in 25 ml of dry tetrahydrofuran is treated dropwise at -70° with 6.8 ml of an about 1.14M solution of n-butyl lithium in hexane. The mixture is stirred at -70° for 60 minutes. There are subsequently added dropwise thereto at -30° 1.1 g of 2-chloroethylpyrrolidine in 2.5 ml of dry tetrahydrofuran and the mixture is stirred at -30° for 1 hour and at 0° to 5° for 3 hours. After evaporation of the mixture, the residue remaining is dissolved in toluene and washed with water. The organic phase is filtered over 10 g of aluminum oxide (activity grade II, neutral) using toluene for the elution. Crude 1-[2-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-yl)ethyl]pyrrolidine is obtained as a yellow oil.

reactant | 10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 1.0 g | C1=CC=CC=2CC3=C(CCC21)C=CC=C3 | C15H14
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 2-chloroethylpyrrolidine | 1.1 g | ClCCN1CCCC1 | C6H12ClN
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
product | 1-[2-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-yl)ethyl]pyrrolidine | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)CCN3CCCC3 | C21H25N
